US07465795B2
4-amino-N-cyclobutyl-8-(4-methoxypyridin-3-yl)cinnoline-3-carboxamide
Using Method A, 4-amino-8-bromo-N-cyclobutyl-cinnoline-3-carboxamide (145 mg) and 4-methoxypyridin-3-yl boronic acid (172 mg) were reacted to afford the title compound (31 mg) as white solid. 1H NMR (500 MHz, DMSO-d6) δ 9.24 (d, 1H), 8.52 (m, 1H), 8.44 (m, 1H), 8.33 (s, 1H), 7.78 (m, 2H), 7.18 (d, 1H), 4.49 (m, 1H), 3.72 (s, 3H), 2.26-2.10(m, 4H), 1.72-1.62 (m, 2H). MS APCI, m/z=350 (M+H).

reactant | 4-amino-8-bromo-N-cyclobutyl-cinnoline-3-carboxamide | 145 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NC1CCC1 | C13H13BrN4O
reactant | 4-methoxypyridin-3-yl boronic acid | 172 mg | COC1=C(C=NC=C1)B(O)O | C6H8BNO3
product | 4-amino-N-cyclobutyl-8-(4-methoxypyridin-3-yl)cinnoline-3-carboxamide | 31 mg | NC1=C(N=NC2=C(C=CC=C12)C=1C=NC=CC1OC)C(=O)NC1CCC1 | C19H19N5O2
